US07504508B2
(2S,4R)-5-(4-{4-[Acetyl-(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenoxymethyl)-furan-2-carboxylic acid amide (H-27)
(2S,4R)-5-(4-{4-[Acetyl-(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenoxymethyl)-furan-2-carboxylic acid (0.065 g, 0.12 mmol) was converted to the amide by dissolving in THF (1 mL) at room temperature. HOBt (0.024 g), EDCI (0.033 g), and ammonium chloride (0.013 g, 0.232 mmol) was added along with 2 drops of DMF and stirred at room temperature for 11 h. The reaction was diluted with ethyl acetate, washed with 1N NaOH, 1N HCl and brine. The organics were dried over MgSO4, filtered and concentrated down. The crude residue was purified by silica gel chromatography (10 ethyl acetate:1 methanol) to afford the product as a white solid in 61% yield.

reactant | (2S,4R)-5-(4-{4-[Acetyl-(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenoxymethyl)-furan-2-carboxylic acid | 0.12 mmol, 0.065 g | C(C)(=O)N([C@@H]1C[C@@H](N(C2=CC=CC=C12)C(=O)C1=CC=C(OCC2=CC=C(O2)C(=O)O)C=C1)C)C1=CC=C(C=C1)Cl | C31H27ClN2O6
reactant | HOBt | 0.024 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.033 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | ammonium chloride | 0.232 mmol, 0.013 g | [Cl-].[NH4+]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2S,4R)-5-(4-{4-[Acetyl-(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenoxymethyl)-furan-2-carboxylic acid amide | 61% yield | C(C)(=O)N([C@@H]1C[C@@H](N(C2=CC=CC=C12)C(=O)C1=CC=C(OCC2=CC=C(O2)C(=O)N)C=C1)C)C1=CC=C(C=C1)Cl | C31H28ClN3O5
